US04666925
n-Butyl lithium (37 ml in hexane) was added to a solution of 1H-indene (6.30 ml) in anhydrous diethyl ether (40 ml) under nitrogen atmosphere at 15° C. The solution was stirred at room temperature for 10 min, 2-bromopropane (18.8 g) in anhydrous ether (100 ml) was added, and stirring was continued for 72 hours. Water (30 ml) was added, the phases were separated, and the aqueous phase was extracted with ether. The combined ether solutions was washed with water, dried (MgSO4) and condensed. The residue was distilled (50°-55° C., 0.03 mmHg) to give 1-isopropyl-1H-indene (5.95 g).

reactant | n-Butyl lithium | 37 ml | C(CCC)[Li]
reactant | 1H-indene | 6.30 ml | C1C=CC2=CC=CC=C12 | C9H8
reactant | 2-bromopropane | 18.8 g | BrC(C)C | C3H7Br
reactant | Water | 30 ml | O | H2O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-isopropyl-1H-indene | 5.95 g | C(C)(C)C1C=CC2=CC=CC=C12 | C12H14
